US07772256B2
d) [6-Fluoro-5-(5-methoxy-benzofuran-2-yl)-pyridin-2-yl]-methyl-carbamic acid tert-butyl ester
To a stirred solution of [6-fluoro-5-(5-methoxy-benzofuran-2-yl)-pyridin-2-yl]-carbamic acid tert-butyl ester (78 mg, 0.218 mmol) in DMF (5 mL) at 0° C., NaH (11 mg, 0.26 mmol, 57% dispersion in oil) was added and the resulting mixture was stirred for 10 minutes. Methyl iodide (15 μL, 0.24 mmol) was then added and the stirring was continued for 30 minutes at room temperature. Additional portions of NaH (11 mg, 0.26 mmol, 57% dispersion in oil) and methyl iodide (15 μL, 0.24 mmol) were added and the solution was stirred for 1 hour. The reaction mixture was quenched with water (5 mL) and the product was extracted with ethyl acetate. The organic layer was washed with brine, dried over Na2SO4, filtered and concentrated. Purification of the crude product by flash column chromatography using 10% ethyl acetate in hexane afforded title compound (66 mg) as an off-white solid. 1H NMR (400 MHz, CHLOROFORM-d) δ: 8.25-8.33 (m, 1 H) 7.87 (m 1H) 7.41 (d, J=9.37 Hz, 1 H) 7.14 (s, 1 H) 7.06 (d, J=2.34 Hz, 1 H) 6.92 (d, J=8.98 Hz, 1 H) 3.86 (s, 3 H) 3.43 (s, 3 H) 1.56 (s, 9 H)

reactant | [6-fluoro-5-(5-methoxy-benzofuran-2-yl)-pyridin-2-yl]-carbamic acid tert-butyl ester | 0.218 mmol, 78 mg | C(C)(C)(C)OC(NC1=NC(=C(C=C1)C=1OC2=C(C1)C=C(C=C2)OC)F)=O | C19H19FN2O4
reactant | NaH | 0.26 mmol, 11 mg | [H-].[Na+]
reactant | Methyl iodide | 0.24 mmol, 15 μL | CI | CH3I
reactant | NaH | 0.26 mmol, 11 mg | [H-].[Na+]
reactant | methyl iodide | 0.24 mmol, 15 μL | CI | CH3I
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | [6-Fluoro-5-(5-methoxy-benzofuran-2-yl)-pyridin-2-yl]-methyl-carbamic acid tert-butyl ester | 66 mg | C(C)(C)(C)OC(N(C)C1=NC(=C(C=C1)C=1OC2=C(C1)C=C(C=C2)OC)F)=O | C20H21FN2O4
